US04500346
A mixture consisting of 25.4 g of 4-(4-trifluoromethylphenoxy)phenol, 14.5 g of anhydrous potassium carbonate, 33.8 g of 2-(4-chlorobenzylthio)ethyl 2-bromopropionate and 150 ml of dry acetonitrile was refluxed for 3 hours with vigorous stirring. After cooling the reaction mixture to room temperature, the acetonitrile was removed under reduced pressure. Then, 150 ml of toluene were added to the residue and the resulting mixture was washed successively with 1% strength by weight aqueous sodium hydroxide solution and water, followed by dehydration. Upon distilling off the toluene under reduced pressure, there were obtained 46.4 g of 2-(4-chlorobenzylthio)-ethyl 2-[4-(4-trifluoromethylphenoxy)-phenoxy]-propionate in the form of a colorless oil. nD20 =1.5555.

reactant | 4-(4-trifluoromethylphenoxy)phenol | 25.4 g | FC(C1=CC=C(OC2=CC=C(C=C2)O)C=C1)(F)F | C13H9F3O2
reactant | potassium carbonate | 14.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(4-chlorobenzylthio)ethyl 2-bromopropionate | 33.8 g | BrC(C(=O)OCCSCC1=CC=C(C=C1)Cl)C | C12H14BrClO2S
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2-(4-chlorobenzylthio)-ethyl 2-[4-(4-trifluoromethylphenoxy)-phenoxy]-propionate | 46.4 g | FC(C1=CC=C(OC2=CC=C(OC(C(=O)OCCSCC3=CC=C(C=C3)Cl)C)C=C2)C=C1)(F)F | C25H22ClF3O4S
